US04115572
3-N-Allyl-4-n-propyl-imidazo[1,5-d]-as-triazin-1(2H)-one
To a solution of 4-n-propyl-imidazo[1,5-d]-as-triazin-1(2H)-one (0.01 mol) in dimethylformamide (50 ml) is added sodium methoxide (0.01 mol) followed by the addition of allyl bromide (0.012 mol). The reaction mixture is stirred at 20° C. for 16 hours, then heated at 40° C. for 45 minutes, cooled and poured on a mixture of ice and dilute hydrochloric acid. The product is isolated by extraction with chloroform and evaporation. It is purified by recrystallization from cyclohexane or a cyclohexane-benzene mixture; or by silica gel dry column chromatography in chloroform.

reactant | 4-n-propyl-imidazo[1,5-d]-as-triazin-1(2H)-one | 0.01 mol | C(CC)C1=NNC(C=2N1C=NC2)=O | C8H10N4O
reactant | sodium methoxide | 0.01 mol | C[O-].[Na+]
reactant | allyl bromide | 0.012 mol | C(C=C)Br | C3H5Br
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-N-Allyl-4-n-propyl-imidazo[1,5-d]-as-triazin-1(2H)-one | C(C=C)N1NC(C=2N(C1CCC)C=NC2)=O | C11H16N4O
